Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
headache, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male re-presenting to ___ ED after he was 
discharged home on ___ from ED following evaluation for 
tentorial subdural hematoma sustained from falling off his  
skateboard while intoxicated 24 hours ago. He was seen here 
initially, and found to have subdural hematoma - and a repeat 
head CT did show worsening subdural hematoma however he was 
deemed appropriate for discharge home with keppra and Zofran. 
The patient did not fill either prescriptions, and 
stayed home with repetitive vomiting and continued untreated 
headache.  He eventually re-presented this evening for repeat 
evaluation and at this time his repeat CT shows new bifrontal 
contusions, a stable non-displaced right parietooccipital 
calvarial fracture, and redistribution of stable tentorial SDH. 

 
Past Medical History:
anxiety/depression
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
UPON DISCHARGE:
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm
EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     

Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

 
Pertinent Results:
Please refer to OMR for relevant imaging and lab results 
 
Brief Hospital Course:
#Traumatic Brain Injury
The patient was admitted to the neuroscience floor for ongoing 
care and management given new bifrontal contusions and ongoing 
uncontrolled headache and nausea following TBI sustained on 
___.  He was started on fioricet and oxycodone for the 
headache, which improved the headache, although he reports some 
mild persistent pain. He was written for Zofran while inpatient, 
however his nausea improved on it's own and he did not require 
any doses. On ___ he was evaluated by physical therapy for 
complaint of dizziness, and they recommended outpatient 
vestibular physical therapy. The patient was able to ambulate 
well, tolerate all PO intake, and his pain was reasonably 
controlled with medication. He was provided with filled 
prescriptions for fioricet, Zofran ODT, and keppra, so that he 
did not have to go to the pharmacy. He was discharged home 
without incident.
 
Medications on Admission:
Wellbutrin (unknown dose) 

Had been discharged from ___ ED with Zofran and keppra but did 
not fill either
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 tablet(s) 
by mouth q4hrs Disp #*30 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
3.  Docusate Sodium 100 mg PO BID  
4.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
5.  Ondansetron ODT 4 mg PO Q8H:PRN nausea/vomiting 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hr Disp #*30 Tablet 
Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.Outpatient Physical Therapy
Vestibular ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Bifrontal contusions 
2. Calvarial fracture 
3. Subdural hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity

• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

• No driving while taking any narcotic or sedating medication. 

• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

• You may have difficulty paying attention, concentrating, and 
remembering new information.

• Emotional and/or behavioral difficulties are common. 

• Feeling more tired, restlessness, irritability, and mood 
swings are also common.

• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

• Headache is one of the most common symptom after a brain 
bleed. 

• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:

• You were given information about headaches after TBI and the 
impact that TBI can have on your family.

• If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:

• Fever greater than 101.5 degrees Fahrenheit

• Nausea and/or vomiting

• Extreme sleepiness and not being able to stay awake

• Severe headaches not relieved by pain relievers

• Seizures

• Any new problems with your vision or ability to speak

• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

• Sudden numbness or weakness in the face, arm, or leg

• Sudden confusion or trouble speaking or understanding

• Sudden trouble walking, dizziness, or loss of balance or 
coordination

• Sudden severe headaches with no known reason

 
Followup Instructions:
___